US04551469
1,1-Diphenyl-2-(1,2,4-triazol-1-yl)-ethan-1-ol (Compound 17)
1,2,4-Triazole (0.03 mol, 2.07 g) was added portionwise to a suspension of sodium hydride (0.03 mol, 0.72 g) in DMF (30 ml) and the solution stirred until effervescence ceased. 1,1-Diphenyl-2-chloro-ethan-1-ol (0.015 mol, 2.94 g) in dimethylformamide (DMF; 10 ml) was added dropwise and the solution warmed at 100° for six hours. The reaction mixture was poured into water and a white solid crystallised out. This was filtered off, washed with water, dried, and recrystallised from ethanol to give the title compound as a white crystalline solid, m.p. 128°-129°.

reactant | 1,2,4-Triazole | 0.03 mol, 2.07 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.03 mol, 0.72 g | [H-].[Na+]
reactant | 1,1-Diphenyl-2-chloro-ethan-1-ol | 0.015 mol, 2.94 g | C1(=CC=CC=C1)C(CCl)(O)C1=CC=CC=C1 | C14H13ClO
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,1-Diphenyl-2-(1,2,4-triazol-1-yl)-ethan-1-ol | C1(=CC=CC=C1)C(CN1N=CN=C1)(O)C1=CC=CC=C1 | C16H15N3O
